US07018988B2
(2S)-1-(diphenylacetyl)-N-(1-naphthylmethyl)-4-oxo-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-oxoproline, diphenylacetyl chloride, and 1-naphthylmethylamine the title com-pound was obtained in 60% purity by LC/MS. MS(ESI+): m/z=463.4.

reactant | 1-(tert-butoxycarbonyl)-4-oxoproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=O | C10H15NO5
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 1-naphthylmethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | (2S)-1-(diphenylacetyl)-N-(1-naphthylmethyl)-4-oxo-2-pyrrolidinecarboxamide | C1(=CC=CC=C1)C(C(=O)N1[C@@H](CC(C1)=O)C(=O)NCC1=CC=CC2=CC=CC=C12)C1=CC=CC=C1 | C30H26N2O3
